US07691881B2
3(1) 1-Isopropyl-5,6-dimethyl-2-oxo-1,2-dihydropyridine-3-carbonitrile
To a stirred solution of 2-methyl-3-oxobutanal sodium salt (2.73 g, 22.4 mmol, prepared according to Paine, John B et al., J. Heterocycl. Chem., 1987, 24, 351), 2-cyano-N-isopropylacetamide (2.17 g, 17.2 mmol, prepared according to Wuerthner, Frank et al., J. Amer, Chem. Soc., 2002, 32, 9431) in N,N-dimethylformamide (17.2 mL) were added piperidine (292 mg, 3.43 mmol) and acetic acid (1.34 g, 22.4 mmol) successively at room temperature, and the mixture was stirred at 135° C. for 7 h. After cooling, the mixture was quenched with water (100 mL), extracted with dichloromethane (50 mL×4). The combined organic layers were dried over magnesium sulfate and concentrated in vacuo. The residue was chromatographed on a column of silica gel eluting with n-hexane/ethyl acetate (v/v=2/1˜1/1) to give 840 mg (26%) of the title compound as an orange colored solid.

reactant | 2-methyl-3-oxobutanal sodium salt | 22.4 mmol, 2.73 g | [Na].CC(C=O)C(C)=O
reactant | 2-cyano-N-isopropylacetamide | 17.2 mmol, 2.17 g | C(#N)CC(=O)NC(C)C | C6H10N2O
reactant | piperidine | 3.43 mmol, 292 mg | N1CCCCC1 | C5H11N
reactant | acetic acid | 22.4 mmol, 1.34 g | C(C)(=O)O | C2H4O2
solvent | N,N-dimethylformamide | 17.2 mL | CN(C=O)C | C3H7NO
product | 1-Isopropyl-5,6-dimethyl-2-oxo-1,2-dihydropyridine-3-carbonitrile | 840 mg, 26% | C(C)(C)N1C(C(=CC(=C1C)C)C#N)=O | C11H14N2O
